US04250087
Solid phase synthesis was performed on Boc-Gly polymer or brominated polymer for analogs with COOH-terminal glycine residues and on Boc-Gly benzhydrylamine polymer for the analog with a COOH-terminal glycineamide residue. Side-chain protection and coupling were performed as described previously for the synthesis of human β-endorphin as described in U.S. Pat. No. 4,116,950. Assembly of sequences corresponding to [Gly31 ]-βh -EP (I), [Gly31 ]-βh -endorphinamide i.e., ([Gly31 ]-βh -EP-NH2) (II), and [Gly31 ]-βh -endorphinylglycine i.e., ([Gly31 ]-βh -EP-Gly-OH) (III) was carried out in a Beckman model 990 peptide synthesizer with the symmetrical anhydride program fully automated. After removal of the last Boc group with trifluoroacetic acid and treatment with liquid HF, the peptides were purified by gel filtration on Sephadex G-10 and chromatography on carboxymethylcellulose by procedures detailed previously in U.S. Pat. No. 4,116,950. Final purification by differential hydrophobicity was effected by partition chromatography on Sephadex G-50 with solvent systems used and Rf values obtained as follows: I, 1 -butanol:pyridine:0.05 M NH4OAc-0.2% HOAc (5:3:10), Rf 0.39; II, 1-butanol:HOAc:Pyridine:H2O (20:5:1:25), Rf 0.37; III, 1-butanol:pyridine:0.6 M NH4OAc (5:3:10), Rf 0.61. From 50 umol of starting Boc-Gly resin there was obtained: I, 65.8 mg; II, 62.2 mg; III, 67.3 mg. The peptides were homogeneous in tlc (silica gel with ninhydrin and Cl2 -tolidine detection) in 1-butanol:pyridine:acetic acid:H2O (5:5:1:4), as follows: I, Rf 0.47; II, Rf 0.50; III, Rf 0.52. They were homogeneous on paper electrophoresis on Whatman 3MM (400 V, 5 hr, ninhydrin detection) at pH 3.7 (I, Rf 0.57; II, Rf 0.65; IV, Rf 0.56) and at pH 6.7 (I, Rf 0.46; II, Rf 0.57; III, Rf 0.46) with Rf values relative to lysine. Amino acid analyses of 24-hr acid hydrolysates were in agreement with expected values (Table 1).

reactant | β-endorphin | CC[C@H](C)[C@@H](C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CC(=O)N)C(=O)N[C@@H](C)C(=O)N[C@@H](CC=1C=CC(=CC1)O)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CCCCN)C(=O)NCC(=O)N[C@@H](CCC(=O)O)C(=O)O)NC(=O)[C@H](C)NC(=O)[C@H](CC(=O)N)NC(=O)[C@H](CCCCN)NC(=O)[C@H](CC=2C=CC=CC2)NC(=O)[C@H](CC(C)C)NC(=O)[C@H]([C@@H](C)O)NC(=O)[C@H](C(C)C)NC(=O)[C@H](CC(C)C)NC(=O)[C@@H]3CCCN3C(=O)[C@H]([C@@H](C)O)NC(=O)[C@H](CCC(=O)N)NC(=O)[C@H](CO)NC(=O)[C@H](CCCCN)NC(=O)[C@H](CCC(=O)O)NC(=O)[C@H](CO)NC(=O)[C@H]([C@@H](C)O)NC(=O)[C@@H](CCSC)NC(=O)[C@H](CC=4C=CC=CC4)NC(=O)CNC(=O)CNC(=O)[C@H](CC=5C=CC(=CC5)O)N | C158H251N39O46S
reactant | Gly-OH | NCC(=O)O | C2H5NO2
reactant | 1-butanol HOAc Pyridine H2O | C(CCC)O.CC(=O)O.N1=CC=CC=C1.O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | 1-butanol | C(CCC)O | C4H10O
product | Boc-Gly | 50 umol | N(CC(=O)O)C(=O)OC(C)(C)C | C7H13NO4
